US05021481
3-tert-Butyl-2-(1-alpha-methylbenzyloxy-2,2,6,6-tetra-methyl-piperidin-4-yloxy) -1,3,2-oxazaphospholidine
A solution of 9.8 grams (54 mmol) of 3-tert-butyl-2-chloro-1,3,2-oxazaphospholidine in 40 ml of tetrahydrofuran is added dropwise over 30 minutes to a solution of 15.0 grams (54 mmol) of 4-hydroxy-1-alpha-methylbenzyloxy-2,2,6,6-tetramethylpiperidine, prepared in Example 2A, 6.0 grams (159 mmol) of triethylamine and 80 ml of tetrahydrofuran. The reaction temperature increases from 20° C. to 32° C. during the addition. The reaction mixture is stirred for three hours after the addition is complete. Triethylamine hydrochloride is removed by filtration, and the filtrate is concentrated under reduced pressure to yield an oil. Trituration of the crude product with hexane affords 9.3 grams (41% yield) of the title compound as a white solid melting at 110-113° C.

reactant | 3-tert-butyl-2-chloro-1,3,2-oxazaphospholidine | 54 mmol, 9.8 grams | C(C)(C)(C)N1P(OCC1)Cl | C6H13ClNOP
reactant | 4-hydroxy-1-alpha-methylbenzyloxy-2,2,6,6-tetramethylpiperidine | 54 mmol, 15.0 grams | OC1CC(N(C(C1)(C)C)OC(C1=CC=CC=C1)C)(C)C | C17H27NO2
reactant | triethylamine | 159 mmol, 6.0 grams | C(C)N(CC)CC | C6H15N
reactant | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 3-tert-Butyl-2-(1-alpha-methylbenzyloxy-2,2,6,6-tetra-methyl-piperidin-4-yloxy) -1,3,2-oxazaphospholidine | 9.3 grams, 41% yield | C(C)(C)(C)N1P(OCC1)OC1CC(N(C(C1)(C)C)OC(C1=CC=CC=C1)C)(C)C | C23H39N2O3P
